US03939273
A mixture of sesamol (27.6 g.), cinnamyl chloride (30.4 g.), anhydrous potassium carbonate (50.0 g.), potassium iodide (2.0 g.) in anhydrous acetone (100 ml.) was heated under reflux for 1.5 hrs. The acetone was removed by evaporation, and the residue was treated with excess water and cooled to give an oil, which subsequently solidified. The crude product was collected by filtration and recrystallized from methanol to give MDCB as colorless prisms, m.p. 83° C., yield 15.0 g. (Found: C, 75.4; H, 5.67. Calculated for C16H14O3 : C, 75.6; H, 5.55.) The nuclear magnetic resonance (NMR) spectrum of MDCB at 100 MHz in deuterated chloroform (CDCl3) exhibited absorbances as follows: a doublet (2 protons) at δ 4.59 (coupling constant J = 6.0 Hz), singlet (2 protons at δ 5.89, a multiplet (5 protons) at δ 6.22-6.80, and a multiplet (5 protons) at δ 7.18-8.48.

reactant | sesamol | 27.6 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | cinnamyl chloride | 30.4 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | potassium carbonate | 50.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,4-Methylenedioxy-Cinnamyloxybenzene | C1OC=2C=C(C=CC2O1)OCC=CC1=CC=CC=C1 | C16H14O3
